US06072088
Sodium borohydride (0.8 g) was added to 15 ml water at 0 C. (ice bath). After the NaBH4 had dissolved, 9.7 g of CF3CH2C(O)CH2CF3 were added. The ketone froze. The ice bath was removed until the mixture was warm enough to melt the ketone, and the ice bath cooling was resumed. The reaction was quenched after 1 h with the addition of 5 ml 2N HCl and 10 ml brine. The lower layer (8.9 g) consisted of 95% pure CF3CH2CH(OH)CH2CF3 (91% yield). Distillation increased the purity to 97%; boiling point 65 C. at 95 mm Hg. 1H NMR: 4.4 (pentet, 1H), 2.9 (s, 1H), 2.4 (m, 4H) ppm. 19F NMR: -64.2 (t, J=10 Hz) ppm. FT-IR: 3415 (OH), 1264, 1154 cm-1. MS: 113 (64.8), 111 (18.6), 109 (10.8), 93 (91.4), 91 (14.2), 69(16.5), 65 (100), 64 (33.8), 49 (28.1), 29 (25.8). Anal. Calcd for C5H6F6O: C, 30.63; H, 3.08. Found: C, 30,61; H, 3.11.

reactant | Sodium borohydride | 0.8 g | [BH4-].[Na+]
reactant | CF3CH2C(O)CH2CF3 | 9.7 g | C(F)(F)(F)CC(=O)CC(F)(F)F | C5H4F6O
solvent | water | 15 ml | O | H2O
product | CF3CH2CH(OH)CH2CF3 | 91% yield | C(F)(F)(F)CC(O)CC(F)(F)F | C5H6F6O
